US04966913
4-Heptylbenzoyl cyanide was synthesized according to the general procedure reported by G. A. Olah et al [supra]. Under dry conditions, 2.5518 g of 4-heptylbenzoyl chloride (99%, Aldrich) (10.69 mmol), 30 mL of methylene chloride, freshly distilled from phosphorus pentoxide under nitrogen, and 1.65 mL of trimethylsilyl cyanide (12 mmol) were added to a 100-mL round bottom flask. To this solution 0.27 mL of tin (IV) chloride (2.3 mmol) was added. The reaction mixture was stirred for 2 hr at room temperature. During the 2 hr, the color of the solution changed from a pale yellow to dark brown. After 2 hr of stirring, the reaction was quenched with 81 mL of ice-cold water and then extracted with two 81-mL portions of methylene chloride. The methylene chloride extracts were combined, washed with two 81-mL portions of ice-cold water, dried with MgSO4, and filtered. The methylene chloride was removed by rotary evaporation to yield 2.097 g of a dark brown oil. This oil was distilled at 106°-109.5° C. (0.2 mm) to yield 1.214 g (50%) of 4-heptylbenzoyl cyanide as a colorless oil that solidified on standing in the freezer: IR (CCl4) (partial) 2930, 2860, 2220, 1680, 1610 cm-1.

reactant | 4-heptylbenzoyl chloride | 10.69 mmol, 2.5518 g | C(CCCCCC)C1=CC=C(C(=O)Cl)C=C1 | C14H19ClO
reactant | phosphorus pentoxide | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | trimethylsilyl cyanide | 12 mmol, 1.65 mL | C[Si](C)(C)C#N | C4H9NSi
reactant | tin (IV) chloride | 2.3 mmol, 0.27 mL | [Sn](Cl)(Cl)(Cl)Cl
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | 4-Heptylbenzoyl cyanide | C(CCCCCC)C1=CC=C(C(=O)C#N)C=C1 | C15H19NO
